Q1 (net28 net27 net27 0) npn
Q0 (net33 net31 net30 0) npn
R5 (VB1 net27) resistor
R3 (net30 VDD) resistor
R2 (net31 VDD) resistor
R1 (VSS net31) resistor
R0 (VSS net33) resistor
C3 (net30 VDD) capacitor
C2 (net31 net30) capacitor
C1 (net27 VDD) capacitor
L1 (net33 VOUT1) inductor
L0 (net28 net31) inductor